US04503049
2.68 g of (11-oxo-2-dibenz[b,f]oxepinyl)acetic acid is dissolved in 9.15 ml of thionyl chloride and heated for 3 hours under reflux. The mixture is then concentrated under vacuum, thus obtaining 3.04 g of (11-oxo-2-dibenz[b,f]oxepinyl)acetyl chloride. This acid chloride is reacted under the conditions of Example 2 with trimethyl phosphite, yielding 1.34 g of 2-(11-oxo-2-dibenz[b,f]oxepinyl)-1-hydroxyethenephosphonic acid dimethyl ester, mp 118° C. The resultant product is reacted with dimethyl phosphite as described in Example 1, yielding the 2-(11-oxo-2-dibenz[b,f]oxepinyl)-1-hydroxyethane-1,1-bis(phosphonic acid dimethyl ester), mp 133° C.

reactant | (11-oxo-2-dibenz[b,f]oxepinyl)acetic acid | 2.68 g | O=C1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
reactant | thionyl chloride | 9.15 ml | S(=O)(Cl)Cl | Cl2OS
product | (11-oxo-2-dibenz[b,f]oxepinyl)acetyl chloride | 3.04 g | O=C1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)CC(=O)Cl | C16H11ClO3
